US06620828B2
A solution of 4-amino-2-(trityl-amino)-thiazole-5-carbothioic acid amide (304 mg, 0.73 mmol) and N-(3-Bromoacetyl-phenyl)-benzamide (300 mg, 0.94 mmol) in MeOH (30 ml) was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in EtOAc (100 ml). The EtOAc solution was washed with a saturated aqueous solution of NaHCO3 (3×25 ml). The organic layer was separated, dried over MgSO4, and concentrated. Purification of the residue was achieved by silica gel chromatography (75% EtOAc/DCM) providing N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)-phenyl]-benzamide (110 mg, 39% yield). mp 159-163° C. (decomp). 1H NMR (CD3OD): δ 8.33 (s, 1H), 8.00-7.97 (m, 2H), 7.75-7.71 (m, 2H), 7.64-7.52 (m, 3H), 7.43 (t, J=7.74 Hz, 1H), 7.33 (s, 1H). FABMS Calcd for C19H15N5OS2: 394.0796. Found: 394.0802.

reactant | 4-amino-2-(trityl-amino)-thiazole-5-carbothioic acid amide | 0.73 mmol, 304 mg | NC=1N=C(SC1C(N)=S)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N4S2
reactant | N-(3-Bromoacetyl-phenyl)-benzamide | 0.94 mmol, 300 mg | BrCC(=O)C=1C=C(C=CC1)NC(C1=CC=CC=C1)=O | C15H12BrNO2
solvent | MeOH | 30 ml | CO | CH4O
product | N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)-phenyl]-benzamide | 110 mg, 39% yield | NC=1SC(=C(N1)N)C=1SC=C(N1)C=1C=C(C=CC1)NC(C1=CC=CC=C1)=O | C19H15N5OS2
